US07427612B2
4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 5 g (20 mmol) 1-Bromo-2-fluoro-4-trifluoromethyl-benzene, 4.6 g (24.7 mmol) n-Boc-piperazine, 106 mg (0.1 mmol) Tris(dibenzylideneacetone)dipalladium chloroform complex 2.77 g (28.8 mmol) sodium-t-butoxide and 144 mg (0.4 mmol) 2-(Dicyclohexylphosphino)biphenyl in 50 ml toluene was heated for 16 h at 80° C. After cooling to room temperature the mixture was treated with 15 g Isolute HM-N and all volatiles were removed under vacuum. The residue was purified on silica eluting with a gradient of heptane/EtOAc to yield after evaporation 4.54 g (63%) of the title compound as white amorphous solid.

reactant | 1-Bromo-2-fluoro-4-trifluoromethyl-benzene | 20 mmol, 5 g | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | n-Boc-piperazine | 24.7 mmol, 4.6 g | CC(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-(Dicyclohexylphosphino)biphenyl | 0.4 mmol, 144 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)dipalladium chloroform | 0.1 mmol, 106 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd].C(Cl)(Cl)Cl
product | 4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)F | C16H20F4N2O2
